US09034880B2
Preparation of the title compound was carried out according to General Method 8. 4-Chlorophenylhydrazine hydrochloride (500 mg, 2.79 mmol), 2-phenyl ethyl bromide (0.38 ml, 2.79 mmol), triethyl amine (0.39 ml, 2.79 mmol) and N-methyl-4-piperidone hydrochloride (623 mg, 4.18 mmol) were combined in ethanol (2 ml) to obtain 15 mg of 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-phenethyl-1H-pyrido[4,3-b]indole as a trifluoroacetate salt after purification on neutral alumina using ethyl acetate-hexane gradient followed by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | 4-Chlorophenylhydrazine hydrochloride | 2.79 mmol, 500 mg | Cl.ClC1=CC=C(C=C1)NN
reactant | 2-phenyl ethyl bromide | 2.79 mmol, 0.38 ml | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | triethyl amine | 2.79 mmol, 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-4-piperidone hydrochloride | 4.18 mmol, 623 mg | Cl.CN1CCC(CC1)=O
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-phenethyl-1H-pyrido[4,3-b]indole | 15 mg | ClC1=CC=2C3=C(N(C2C=C1)CCC1=CC=CC=C1)CCN(C3)C | C20H21ClN2
